2123-02-11 09:18:00 Physician Attending Progress Note
Chief Complaint: fever, cough and headache
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
 INVASIVE VENTILATION - START [**2123-2-11**] 03:00 AM
 FEVER - 103.0
F - [**2123-2-11**] 02:44 AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2123-2-11**] 04:20 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Propofol - 30 mcg/Kg/min
   Other ICU medications:
   Fentanyl - [**2123-2-11**] 08:15 AM
   Other medications:
   zosyn 4.5 x1, vanco, heparin s/c, colace, propofol, fentanyl,
   famotidine
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2123-2-11**] 09:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**24**] AM
   Tmax: 39.4
C (103
   Tcurrent: 39.3
C (102.7
   HR: 106 (106 - 120) bpm
   BP: 112/74(83) {88/56(63) - 113/74(83)} mmHg
   RR: 23 (23 - 26) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
             6,824 mL
   PO:
             TF:
   IVF:
   3,824 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    680 mL
   Urine:
   680 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                  6,144 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 470 (470 - 470) mL
   RR (Set): 26
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 60%
   PIP: 32 cmH2O
   Plateau: 26 cmH2O
   Compliance: 29.4 cmH2O/mL
   SpO2: 100%
   ABG: 7.32/48/70/24/-1
   Ve: 12.1 L/min
   PaO2 / FiO2: 117
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal), tachycardia
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: No(t) Clear : , Crackles : left,
   Diminished: left)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Noxious stimuli, Movement: Purposeful, Sedated, Tone: Normal
   Labs / Radiology
   10.8 g/dL
   236 K/uL
   105 mg/dL
   0.9 mg/dL
   24 mEq/L
   5.0 mEq/L
   16 mg/dL
   101 mEq/L
   135 mEq/L
   30.9 %
   14.2 K/uL
        [image002.jpg]
                             [**2123-2-11**]  01:16 AM
                             [**2123-2-11**]  04:49 AM
                             [**2123-2-11**]  05:59 AM
   WBC
   14.2
   Hct
   30.9
   Plt
   236
   Cr
   0.9
   TCO2
   27
   26
   Glucose
   105
   Other labs: Lactic Acid:1.8 mmol/L, Ca++:7.0 mg/dL, Mg++:1.8 mg/dL,
   PO4:2.4 mg/dL
   Imaging: CXR large left sided effusion and likely associated
   consolidation
   Microbiology: Pending, gram stain 3+ gram postiive cocci in pairs and
   chains
   Assessment and Plan
   RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**]): likely secondary to left
   sided pneumonia. Wean FiO2 as tolerated. Goal TV 6-8cc/kg, titrate down
   tidal volumes to 6cc/kg, pplat <30. Continue sedation until vent is
   weaned further. check ABG.
   Pna, Left sided effusion: likely pneumococcocal will continue on
   vanco/zosyn, will also rule out influenza, concerning for empyema: will
   consult IP to perform thoracentesis with posisble need for placement of
   CT. Will obtain OSH CT cd from [**Hospital3 **].
   Hypotension: borderline BP, improved s/p fluid resuscitation, adequate
   urine output, lactate trended down. will continue to monitor.
   Access: continue with peripheral access for now. will get ABG.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2123-2-11**] 03:23 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill
   ------ Protected Section ------
   I saw and examined the pt, and was physically present with the ICU team
   for the key portions of services provided. I agree with Dr.[**Name (NI) 13441**]
   note above, including assessment and plan. I would add:
   46 yo male transferred from OSH with recent PNA and progressive resp
   distress despite levaquin- intubated for acute respiratory failure in
   ED. Briefly hypotensive, but responsive to fluids. Major problems:
    1. Acute respiratory failure from PNA- current oxygenation,
       ventilation adequate. Plan to continue mechanical ventilation. Wean
       FiO2 as tolerated, will serially assess for ability to undergo SBT,
    2. PNA with effusion- severity of presentation and GS favors
       pneumococcus, although staph also possible if flu was the inciting
       resp event. On droplet precautions pending flu swab, on
       vanc/zosyn.   Has complicated effusion on CT
 plan IP consult.
   Pt is critically ill. Total time spent: 55 minutes.
   ------ Protected Section Addendum Entered By:[**Name (NI) 618**] [**Last Name (NamePattern1) **], MD
   on:[**2123-2-11**] 13:31 ------

2123-02-12 06:36:00 Physician Resident Progress Note
Chief Complaint: intubated
   24 Hour Events:
 FEVER - 102.9
F - [**2123-2-11**] 12:00 PM
   - IP removed about 700cc of pleural fluid and left catheter in place;
   fluid studies suggest exudate, concerning for empyema
   - flu negative
   - OSH hospitalist called and shared that his sputum was positive for
   group A strep -Shivraman [**Telephone/Fax (1) 13460**].  Need to get final report from
   lab @ [**Hospital1 608**].
   - vancomycin was discontinued; continued on pip-tazo and levoflox
   - awaiting chest CT
   - able to wean FiO2 to 40% and PEEP to 8-->PSV 8/5
   - TF started
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2123-2-11**] 04:20 AM
   Levofloxacin - [**2123-2-11**] 01:05 PM
   Vancomycin - [**2123-2-11**] 04:38 PM
   Piperacillin - [**2123-2-12**] 03:48 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Propofol - 50 mcg/Kg/min
   Other ICU medications:
   Fentanyl - [**2123-2-11**] 01:05 PM
   Famotidine (Pepcid) - [**2123-2-11**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2123-2-12**] 06:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**24**] AM
   Tmax: 39.4
C (102.9
   Tcurrent: 37.9
C (100.2
   HR: 89 (87 - 119) bpm
   BP: 95/53(63) {95/44(62) - 119/75(83)} mmHg
   RR: 24 (12 - 26) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
             Total In:
                                                                  8,110 mL
                                                                    419 mL
   PO:
             TF:
   IVF:
                                                                  5,110 mL
                                                                    419 mL
   Blood products:
   Total out:
                                                                  3,130 mL
                                                                    580 mL
   Urine:
                                                                  3,030 mL
                                                                    580 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,980 mL
                                                                   -161 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 470 (460 - 470) mL
   PS : 8 cmH2O
   RR (Set): 464
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 52
   PIP: 17 cmH2O
   Plateau: 21 cmH2O
   Compliance: 36.2 cmH2O/mL
   SpO2: 98%
   ABG: 7.38/50/103/27/2
   Ve: 8.2 L/min
   PaO2 / FiO2: 258
   Physical Examination
   GEN: intubated, sedated, apparently comfortable, not responsive to
   voice or sternal rub
   SKIN:No rashes or skin changes noted
   HEENT:No JVD, neck supple, No lymphadenopathy in cervical, posterior,
   or supraclavicular chains noted.
   CHEST: substantially decreased breath sounds in LLL >LUL, RLL also with
   somewhat decreased BS, no significant crackles
   CARDIAC: Regular rhythm; no murmurs, rubs, or gallops.
   ABDOMEN: No apparent scars. Non-distended, and soft without tenderness
   EXTREMITIES:warm, no peripheral edema
   NEUROLOGIC: intubated and sedated, unresponsive
   Labs / Radiology
   285 K/uL
   10.6 g/dL
   106 mg/dL
   0.7 mg/dL
   27 mEq/L
   4.3 mEq/L
   14 mg/dL
   107 mEq/L
   140 mEq/L
   32.0 %
   14.7 K/uL
        [image002.jpg]
                             [**2123-2-11**]  01:16 AM
                             [**2123-2-11**]  04:49 AM
                             [**2123-2-11**]  05:59 AM
                             [**2123-2-11**]  10:08 AM
                             [**2123-2-11**]  03:44 PM
                             [**2123-2-11**]  07:09 PM
                             [**2123-2-11**]  11:10 PM
                             [**2123-2-12**]  03:48 AM
                             [**2123-2-12**]  06:31 AM
   WBC
   14.2
   14.7
   Hct
   30.9
   33.4
   32.0
   Plt
   236
   285
   Cr
   0.9
   0.7
   TCO2
   27
   26
   25
   26
   29
   31
   Glucose
   105
   106
   Other labs: Lactic Acid:0.8 mmol/L, Ca++:7.9 mg/dL, Mg++:2.3 mg/dL,
   PO4:1.8 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
   46-year-old man presents with respiratory failure secondary to
   pneumonia.
   .
   # Respiratory failure:  mixed hypoxemic and hypercarbic.  Likely
   secondary to PNA as below.  Arrived on 100% FiO2, TV 470, PEEP 10
   - continue mechanical ventilation with ARDSnet volumes
   - monitor ABG and O2 Sat, will likely need a-line
   - titrate down  FiO2 as tolerated
   .
   #. Pneumonia:  community acquired, no underlying risk factors.
   Apparently failed a partial course of levofloxacin.  Concern for
   resistent pneumococcus given quick progression and impressive
   infiltrate. Influenza (likely preceding a bacterial PNA) could also be
   at play, but outside a reasonable tx window anyway.  Received vanc and
   zosyn today.
   - vancomycin and zosyn
   - flu swab
   - agressive fluid resuscitation to maintain MAP >65, UOP >30cc/h
   - will attempt arterial line placement to more closely monitor MAP
   - will consider CVL if BP not easily maintained with IVF boluses
   .
   #. L pleural effusion:  concern for empyema given severe infection and
   fluid in lung
   - consult IP tomorrow for consideration of diagnostic/therapeutic tap
   and/or chest tube
   - obtain OSH CT images
   .
   #  Sedation:  patient agitated on fentanyl/versed gtt requiring
   vecuronium
   - no further paralysis
   - downtitrate versed gtt, start propofol
   # FEN: IVFs / replete lytes prn / nutirion for TF recs
   # PPX: H2 blocker, heparin SQ, bowel regimen
   # ACCESS: PIV
   # CODE:  Full, discussed with wife [**Name (NI) 618**] - [**Telephone/Fax (1) 13432**]
   # CONTACT: wife [**Name (NI) 618**]
   # DISPOSITION:
   [ ] Floor pending further investigation
   [ ] Floor pending
   [ ] Stepdown / [**Hospital Unit Name 1682**]
   [x] ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2123-2-11**] 03:23 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2123-02-12 07:29:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 FEVER - 102.9
F - [**2123-2-11**] 12:00 PM
   - IP removed about 700cc of pleural fluid and left catheter in place;
   fluid studies suggest exudate, concerning for empyema
   - flu negative
   - OSH hospitalist called and shared that his sputum was positive for
   group A strep -Shivraman [**Telephone/Fax (1) 13460**].  Need to get final report from
   lab @ [**Hospital1 608**].
   - vancomycin was discontinued; continued on pip-tazo and levoflox
   - awaiting chest CT
   - able to wean FiO2 to 40% and PEEP to 8-->PSV 8/5
   - TF started
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2123-2-11**] 04:20 AM
   Levofloxacin - [**2123-2-11**] 01:05 PM
   Vancomycin - [**2123-2-11**] 04:38 PM
   Piperacillin - [**2123-2-12**] 03:48 AM
   Infusions:
   Fentanyl - 25 mcg/hour
   Propofol - 50 mcg/Kg/min
   Other ICU medications:
   Fentanyl - [**2123-2-11**] 01:05 PM
   Famotidine (Pepcid) - [**2123-2-11**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2123-2-12**] 07:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**24**] AM
   Tmax: 39.4
C (102.9
   Tcurrent: 37.9
C (100.2
   HR: 89 (87 - 119) bpm
   BP: 95/53(63) {95/44(62) - 119/75(83)} mmHg
   RR: 24 (12 - 26) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
             Total In:
                                                                  8,110 mL
                                                                    458 mL
   PO:
             TF:
   IVF:
                                                                  5,110 mL
                                                                    458 mL
   Blood products:
   Total out:
                                                                  3,130 mL
                                                                    660 mL
   Urine:
                                                                  3,030 mL
                                                                    580 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,980 mL
                                                                   -202 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 470 (460 - 470) mL
   PS : 8 cmH2O
   RR (Set): 464
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 52
   PIP: 17 cmH2O
   Plateau: 21 cmH2O
   Compliance: 36.2 cmH2O/mL
   SpO2: 98%
   ABG: 7.38/50/103/27/2
   Ve: 8.2 L/min
   PaO2 / FiO2: 258
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   285 K/uL
   10.6 g/dL
   106 mg/dL
   0.7 mg/dL
   27 mEq/L
   4.3 mEq/L
   14 mg/dL
   107 mEq/L
   140 mEq/L
   32.0 %
   14.7 K/uL
        [image002.jpg]
                             [**2123-2-11**]  01:16 AM
                             [**2123-2-11**]  04:49 AM
                             [**2123-2-11**]  05:59 AM
                             [**2123-2-11**]  10:08 AM
                             [**2123-2-11**]  03:44 PM
                             [**2123-2-11**]  07:09 PM
                             [**2123-2-11**]  11:10 PM
                             [**2123-2-12**]  03:48 AM
                             [**2123-2-12**]  06:31 AM
   WBC
   14.2
   14.7
   Hct
   30.9
   33.4
   32.0
   Plt
   236
   285
   Cr
   0.9
   0.7
   TCO2
   27
   26
   25
   26
   29
   31
   Glucose
   105
   106
   Other labs: Lactic Acid:0.8 mmol/L, Ca++:7.9 mg/dL, Mg++:2.3 mg/dL,
   PO4:1.8 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2123-2-11**] 03:23 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2123-02-12 09:53:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
 FEVER - 102.9
F - [**2123-2-11**] 12:00 PM
   passed [**Year (4 digits) 2208**] this am.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2123-2-11**] 04:20 AM
   Levofloxacin - [**2123-2-11**] 01:05 PM
   Vancomycin - [**2123-2-11**] 04:38 PM
   Piperacillin - [**2123-2-12**] 03:48 AM
   Infusions:
   Other ICU medications:
   Fentanyl - [**2123-2-11**] 01:05 PM
   Famotidine (Pepcid) - [**2123-2-12**] 07:45 AM
   Heparin Sodium (Prophylaxis) - [**2123-2-12**] 07:45 AM
   Other medications:
   heparin s/c, famoitidine, levofloxacin, zosyn iv q8
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2123-2-12**] 09:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**24**] AM
   Tmax: 39.4
C (102.9
   Tcurrent: 37.6
C (99.6
   HR: 88 (87 - 119) bpm
   BP: 104/56(65) {94/44(62) - 119/72(81)} mmHg
   RR: 25 (12 - 26) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
             Total In:
                                                                  8,110 mL
                                                                    547 mL
   PO:
             TF:
   IVF:
                                                                  5,110 mL
                                                                    547 mL
   Blood products:
   Total out:
                                                                  3,130 mL
                                                                    900 mL
   Urine:
                                                                  3,030 mL
                                                                    820 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,980 mL
                                                                   -353 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 470 (460 - 470) mL
   PS : 8 cmH2O
   RR (Set): 464
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 43
   PIP: 20 cmH2O
   Plateau: 21 cmH2O
   Compliance: 29.4 cmH2O/mL
   SpO2: 95%
   ABG: 7.38/50/103/27/2
   Ve: 8.2 L/min
   PaO2 / FiO2: 258
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Diminished: left)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   10.6 g/dL
   285 K/uL
   106 mg/dL
   0.7 mg/dL
   27 mEq/L
   4.3 mEq/L
   14 mg/dL
   107 mEq/L
   140 mEq/L
   32.0 %
   14.7 K/uL
        [image002.jpg]
                             [**2123-2-11**]  01:16 AM
                             [**2123-2-11**]  04:49 AM
                             [**2123-2-11**]  05:59 AM
                             [**2123-2-11**]  10:08 AM
                             [**2123-2-11**]  03:44 PM
                             [**2123-2-11**]  07:09 PM
                             [**2123-2-11**]  11:10 PM
                             [**2123-2-12**]  03:48 AM
                             [**2123-2-12**]  06:31 AM
   WBC
   14.2
   14.7
   Hct
   30.9
   33.4
   32.0
   Plt
   236
   285
   Cr
   0.9
   0.7
   TCO2
   27
   26
   25
   26
   29
   31
   Glucose
   105
   106
   Other labs: Lactic Acid:0.8 mmol/L, Ca++:7.9 mg/dL, Mg++:2.3 mg/dL,
   PO4:1.8 mg/dL
   Imaging: Chest Ct pending.
   Microbiology: GAS from sputum at OSH.
   Assessment and Plan
   RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**]): on minimal vent settings
   passed [**Last Name (LF) 2208**], [**First Name3 (LF) **] continue with sedation holiday and assess mental
   status once more awake can extubate after Chest CT.
   PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP): continue zosyn for now
   although can likely switch to penicillin for GAS pneumonia and empyema
   Empyema: s/p chest tube placement, will obtian Chest CT to confirm
   positioning and complete drainage of the pleural fluid. pH 7.05
   ICU Care
   Nutrition:
   Comments: NPO pending extubation this am.
   Glycemic Control:
   Lines:
   18 Gauge - [**2123-2-11**] 03:23 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill
   ------ Protected Section ------
   I saw and examined the pt, and was present with ICU team for the key
   portions of services provided. I agree with Dr. [**First Name (STitle) 10164**]
s note,
   including assessment and plan. 46-year-old man admitted with
   respiratory failure secondary to GAS pneumonia s/p CT drainage for
   parapneumonic effusion. Chest CT after tube placement demonstrates
   loculated fluid, though primarily one large pocket. WBC decreasing and
   vent settings weaned overnight. Pt tolerating [**First Name (STitle) 2208**].
   For GAS Pna, continue abx but will narrow coverage to PCN (vs. CTX).
   Respiratory mechanics look good and although he is not consistently
   following commands, he has a good cough and gag reflex and appears
   capable of protecting his airway- will move to extubation. Altered
   mental status is likely due to meds and should improve as we wean him
   off sedation.
   Pt is critically ill.
   Total time spent: 50 minutes.
   ------ Protected Section Addendum Entered By:[**Name (NI) 618**] [**Last Name (NamePattern1) **], MD
   on:[**2123-2-12**] 16:51 ------

2123-02-13 07:12:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2123-2-12**] 01:45 PM
 NON-INVASIVE VENTILATION - START [**2123-2-13**] 05:00 AM
 FEVER - 101.1
F - [**2123-2-13**] 04:00 AM
   - Extubated to NC, continued to be confused, tachypnic.  Settled with
   ativan, multiple episodes of hypertension and tachypnea overnight,
   gasses stable
   - Trial of Bipap
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2123-2-11**] 01:05 PM
   Vancomycin - [**2123-2-11**] 04:38 PM
   Piperacillin - [**2123-2-12**] 03:48 AM
   Piperacillin/Tazobactam (Zosyn) - [**2123-2-12**] 12:30 PM
   Penicillin G potassium - [**2123-2-13**] 04:09 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2123-2-12**] 07:45 AM
   Heparin Sodium (Prophylaxis) - [**2123-2-12**] 08:06 PM
   Lorazepam (Ativan) - [**2123-2-13**] 05:00 AM
   Morphine Sulfate - [**2123-2-13**] 05:15 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2123-2-13**] 07:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**24**] AM
   Tmax: 38.4
C (101.1
   Tcurrent: 38.4
C (101.1
   HR: 99 (84 - 110) bpm
   BP: 147/73(90) {94/56(65) - 182/91(108)} mmHg
   RR: 29 (21 - 36) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 70 Inch
             Total In:
                                                                    874 mL
                                                                    100 mL
   PO:
             TF:
   IVF:
                                                                    874 mL
                                                                    100 mL
   Blood products:
   Total out:
                                                                  3,165 mL
                                                                    720 mL
   Urine:
                                                                  2,975 mL
                                                                    720 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,291 mL
                                                                   -620 mL
   Respiratory support
   O2 Delivery Device: Bipap mask
   Ventilator mode: CPAP/PSV
   PS : 10 cmH2O
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 43
   PIP: 16 cmH2O
   SpO2: 97%
   ABG: 7.50/38/76.[**Numeric Identifier 126**]//5
   Ve: 14 L/min
   PaO2 / FiO2: 190
   Physical Examination
   GEN: NIPPV in place, uncomfortable appearing. not responsive to voice
   or sternal rub
   SKIN:No rashes or skin changes noted
   HEENT:No JVD, neck supple, No lymphadenopathy in cervical, posterior,
   or supraclavicular chains noted.
   CHEST: substantially decreased breath sounds in LLL >LUL, RLL also with
   somewhat decreased BS, no significant crackles, rapid rate
   CARDIAC: Rapid rhythm; no murmurs, rubs, or gallops.
   ABDOMEN: No apparent scars. Non-distended, and soft without tenderness
   EXTREMITIES:warm, no peripheral edema
   NEUROLOGIC: Not oriented or responsive, decreasing mental status
   overnight
   Labs / Radiology
   285 K/uL
   10.6 g/dL
   106 mg/dL
   0.7 mg/dL
   27 mEq/L
   4.3 mEq/L
   14 mg/dL
   107 mEq/L
   140 mEq/L
   32.0 %
   14.7 K/uL
        [image002.jpg]
                             [**2123-2-11**]  10:08 AM
                             [**2123-2-11**]  03:44 PM
                             [**2123-2-11**]  07:09 PM
                             [**2123-2-11**]  11:10 PM
                             [**2123-2-12**]  03:48 AM
                             [**2123-2-12**]  06:31 AM
                             [**2123-2-12**]  08:05 PM
                             [**2123-2-12**]  10:17 PM
                             [**2123-2-13**]  02:52 AM
                             [**2123-2-13**]  06:59 AM
   WBC
   14.7
   Hct
   33.4
   32.0
   Plt
   285
   Cr
   0.7
   TCO2
   25
   26
   29
   31
   31
   30
   30
   31
   Glucose
   106
   Other labs: Lactic Acid:0.7 mmol/L, Ca++:7.9 mg/dL, Mg++:2.3 mg/dL,
   PO4:1.8 mg/dL
   Microbiology: GRAM STAIN (Final [**2123-2-11**]):
         NO POLYMORPHONUCLEAR LEUKOCYTES SEEN.
         NO MICROORGANISMS SEEN.
   FLUID CULTURE (Preliminary):    NO GROWTH.
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
   46-year-old man presents with respiratory failure secondary to
   pneumonia.
   .
   # Respiratory failure:  Currently hypoxemic with respiratory alkalosis
   and high work of breathing unchanged on BiPap.  Appears to be worsening
   since extubation.  His work of breathing is likely due to is underlying
   Pneumonia with Empyema, pain, fever and tachycardia
   - Trial off Bipap, re gas.  If not improved, re-intubate
   - treatment of PNA as below
   .
   #. Pneumonia c/b empyema:  Community acquired, sputum growing group A
   strep at OSH.  After switching to Penicillin overnight he appears to be
   clinically deteriorating, possibly from Empyema.  His chest tube is in
   place but is draining minimally.
   - D/C penicillin, Restart Zosyn empirically
   - f/u cultures and OSH sensi
   - Contact IP re chest tube maintenance
   .
   #. Altered Mental Status: The patient
s altered mental status is
   concerning this far out from sedation.  Other causes include withdrawal
   from narcotics,? benzos or alcohol (no history),  central process/CNS
   infection, delirium from fever/PNA, poorly controlled pain.
   - Limit Opiates/Benzos, restart Opiates for pain control
   - Probe alcohol history
   - Infection management as above
   - Consider LP/Head CT to rule out central process
   .
   # FEN: IVFs / replete lytes prn / NPO for now
   # PPX: H2 blocker, heparin SQ, bowel regimen
   # ACCESS: PIV, place subclavian today
   # CODE:  Full, discussed with wife [**Name (NI) 618**] - [**Telephone/Fax (1) 13432**]
   # CONTACT: wife [**Name (NI) 618**]
   # DISPOSITION: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2123-2-11**] 03:23 AM
   22 Gauge - [**2123-2-12**] 11:35 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2123-02-13 08:38:00 Physician Attending Progress Note
Chief Complaint: pneumonia, empyema and respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   46M with no sig PMHx, p/w hypoxemic resp failure in setting of recent
   PNA.
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2123-2-12**] 01:45 PM
 NON-INVASIVE VENTILATION - START [**2123-2-13**] 05:00 AM
 FEVER - 101.1
F - [**2123-2-13**] 04:00 AM
   Extubated yesterday afternoon.  Overnight, pt was tachypneic with RR in
   30s and required 50% FM to maintain sats in mid 90s.  This AM, he was
   placed on BiPAP.
   Antibiotics narrowed ot Pen G yesterday
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2123-2-11**] 01:05 PM
   Vancomycin - [**2123-2-11**] 04:38 PM
   Piperacillin - [**2123-2-12**] 03:48 AM
   Piperacillin/Tazobactam (Zosyn) - [**2123-2-12**] 12:30 PM
   Penicillin G potassium - [**2123-2-13**] 07:45 AM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2123-2-13**] 05:00 AM
   Morphine Sulfate - [**2123-2-13**] 05:15 AM
   Heparin Sodium (Prophylaxis) - [**2123-2-13**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Nutritional Support: NPO
   Respiratory: Dyspnea, Tachypnea
   Genitourinary: Foley
   Heme / Lymph: Anemia
   Psychiatric / Sleep: Delirious
   Pain: Unable to answer
   Flowsheet Data as of  [**2123-2-13**] 08:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**24**] AM
   Tmax: 38.9
C (102.1
   Tcurrent: 38.9
C (102.1
   HR: 97 (84 - 110) bpm
   BP: 153/67(87) {104/56(65) - 182/91(108)} mmHg
   RR: 30 (22 - 36) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
             Total In:
                                                                    874 mL
                                                                    150 mL
   PO:
             TF:
   IVF:
                                                                    874 mL
                                                                    150 mL
   Blood products:
   Total out:
                                                                  3,165 mL
                                                                  1,010 mL
   Urine:
                                                                  2,975 mL
                                                                  1,010 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,291 mL
                                                                   -860 mL
   Respiratory support
   O2 Delivery Device: Bipap mask
   Ventilator mode: CPAP/PSV
   PS : 10 cmH2O
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 16 cmH2O
   SpO2: 97%
   ABG: 7.50/38/76.[**Numeric Identifier 126**]/27/5
   Ve: 14.7 L/min
   PaO2 / FiO2: 152
   Physical Examination
   General Appearance: Anxious
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   left base)
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   10.9 g/dL
   329 K/uL
   109 mg/dL
   0.6 mg/dL
   27 mEq/L
   3.9 mEq/L
   14 mg/dL
   108 mEq/L
   143 mEq/L
   33.7 %
   14.8 K/uL
        [image002.jpg]
                             [**2123-2-11**]  03:44 PM
                             [**2123-2-11**]  07:09 PM
                             [**2123-2-11**]  11:10 PM
                             [**2123-2-12**]  03:48 AM
                             [**2123-2-12**]  06:31 AM
                             [**2123-2-12**]  08:05 PM
                             [**2123-2-12**]  10:17 PM
                             [**2123-2-13**]  02:52 AM
                             [**2123-2-13**]  06:59 AM
                             [**2123-2-13**]  07:00 AM
   WBC
   14.7
   14.8
   Hct
   33.4
   32.0
   33.7
   Plt
   285
   329
   Cr
   0.7
   0.6
   TCO2
   26
   29
   31
   31
   30
   30
   31
   Glucose
   106
   109
   Other labs: Lactic Acid:0.7 mmol/L, Ca++:7.7 mg/dL, Mg++:2.2 mg/dL,
   PO4:2.3 mg/dL
   Imaging: CXR [**2-12**] pm:  left effusion, extubated, no significant change
   Microbiology: no new micro data
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**]):
    -- After extubation, persistent tachypnea and hypoxemia.  This may
   related to slowly resolving pneumonia.  BiPAP has not offered much as
   his respiratory status appears similar.  Will stop BiPAP and monitor.
   If hypoxemia or work of breathing is worsening, will reintubate.
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP):
   Recurrent fever overnight.  [**Month (only) 51**] be related to Pen-G switch in a
   situation where his pneumonia is due to another pathogen asides from
   GAS.
   Will re-broaden to Zosyn on which he was defervesced.  Reculture off
   broad antibiotics.
   >Empyema:
   Minimal CT drainage.  CT is flushing.  Placed to suction by IP for next
   24 hours.  Repeat chest CT in AM to determine residual fluid
   collection..
   >Delerium:
   Unclear cause with possibility of ongoing infection, critical care
   delerium and alcohol withdrawal possible.
   Avoid benzos unless clear evidence of etoh withdrawal.  O/w use haldol
   for agitation.
   Although has been hospitalized, consider CNS infection that worsened
   off broad spectrum abx if not
   improving.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2123-2-11**] 03:23 AM
   22 Gauge - [**2123-2-12**] 11:35 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 60 minutes
   Patient is critically ill
   ------ Protected Section ------
   MICU Attending progress note
   I saw and examined this pt, and was physically present with the ICU
   team for the key portions of services provided. I agree with Dr.
   [**Last Name (STitle) 347**]
s note, including assessment and plan. I would add:
   46 yo male transferred from OSH with Grp A strep PNA/loculated effusion
   and acute respiratory failure s/p CT drainage, extubated yesterday.
   Overnight, he developed recurrent fevers. It was presumed that his poor
   mental status yesterday was in the setting of acute illness/heavy
   sedation, but there has been minimal improvt even after
   extubation/stopping sedation.
   1.       Altered mental status: may be toxic/metabolic from critical
   illness + lingering effects of sedation, though slow rate of
   improvement raises concern for concurrent processes. Underwent LP this
   afternoon. No significant EtOH consumption per repeat conversation with
   wife. Does have known chronic pain on outpt oxycodone, but presentation
   not c/w narc withdrawal and he received morphine yesterday. Will try to
   limit excessive sedation, continue to monitor neuro status as
   reportedly this improved with wife present. Consider head CT if MS does
   not improve
   2.       Fevers: GAS should be covered on current regimen; however,
   fevers developed after change in abx. Lungs would seem most likely
   source, presumably HAP or VAP. Zosyn added back, f/u pan Cx. Plan for
   repeat Chest CT tomorrow.
   3.       Acute resp distress; On  BiPAP overnight with unclear benefit,
   on 70% FM (however, sats of 93-94% this afternoon with mask dislodged
   and mostly resting on neck). Wean oxygen as tolerated.
   Pt is critically ill. Total time spent: 50 minutes.
   ------ Protected Section Addendum Entered By:[**Name (NI) 618**] [**Last Name (NamePattern1) **], MD
   on:[**2123-2-13**] 18:51 ------

2123-02-14 06:55:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2123-2-13**] 09:20 AM
 FEVER - 102.6
F - [**2123-2-13**] 09:00 AM
   - considered CVL but got good PIVs
   - abx changed back to Zosyn becasue patient febrile again, not looking
   good
   - Chest tube to remain in for now per IP, Repeat Non-con Chest in am to
   eval, IP will reassess after
   - not really waking up despite off all sedatives, ongoing fever --> LP
   without any evidence of infection (briefly on acyclovir, stopped when
   CSF with 1 RBC only)
   - continues to oxygenate well, mildly hypertensive, febrile, awake but
   without coherent communication, intermittently following commands
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2123-2-11**] 01:05 PM
   Vancomycin - [**2123-2-11**] 04:38 PM
   Piperacillin - [**2123-2-12**] 03:48 AM
   Penicillin G potassium - [**2123-2-13**] 07:45 AM
   Piperacillin/Tazobactam (Zosyn) - [**2123-2-14**] 12:20 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2123-2-13**] 10:00 AM
   Morphine Sulfate - [**2123-2-13**] 12:15 PM
   Heparin Sodium (Prophylaxis) - [**2123-2-13**] 09:05 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2123-2-14**] 06:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**24**] AM
   Tmax: 39.2
C (102.6
   Tcurrent: 37.7
C (99.9
   HR: 81 (76 - 99) bpm
   BP: 146/80(94) {132/67(85) - 176/107(128)} mmHg
   RR: 29 (18 - 32) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
             Total In:
                                                                    400 mL
                                                                    100 mL
   PO:
             TF:
   IVF:
                                                                    400 mL
                                                                    100 mL
   Blood products:
   Total out:
                                                                  3,210 mL
                                                                    575 mL
   Urine:
                                                                  3,210 mL
                                                                    575 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,810 mL
                                                                   -475 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   Ventilator mode: Standby
   PS : 10 cmH2O
   PEEP: 5 cmH2O
   FiO2: 70%
   SpO2: 98%
   ABG: 7.50/38/76.[**Numeric Identifier 126**]/26/5
   Ve: 14.7 L/min
   PaO2 / FiO2: 109
   GEN: awake, alert, on shovel mask
   SKIN:No rashes or skin changes noted
   HEENT:No JVD, neck supple, No lymphadenopathy in cervical, posterior,
   or supraclavicular chains noted.
   CHEST: substantially decreased breath sounds in LLL >LUL, RLL also with
   somewhat decreased BS, no significant crackles, rapid rate
   CARDIAC: Rapid rhythm; no murmurs, rubs, or gallops.
   ABDOMEN: No apparent scars. Non-distended, and soft without tenderness
   EXTREMITIES:warm, no peripheral edema
   NEUROLOGIC: Not oriented or responsive, decreasing mental status
   overnight
   Labs / Radiology
   385 K/uL
   11.2 g/dL
   132 mg/dL
   0.6 mg/dL
   26 mEq/L
   3.4 mEq/L
   16 mg/dL
   108 mEq/L
   145 mEq/L
   34.6 %
   14.0 K/uL
        [image002.jpg]
                             [**2123-2-11**]  07:09 PM
                             [**2123-2-11**]  11:10 PM
                             [**2123-2-12**]  03:48 AM
                             [**2123-2-12**]  06:31 AM
                             [**2123-2-12**]  08:05 PM
                             [**2123-2-12**]  10:17 PM
                             [**2123-2-13**]  02:52 AM
                             [**2123-2-13**]  06:59 AM
                             [**2123-2-13**]  07:00 AM
                             [**2123-2-14**]  04:30 AM
   WBC
   14.7
   14.8
   14.0
   Hct
   33.4
   32.0
   33.7
   34.6
   Plt
   285
   329
   385
   Cr
   0.7
   0.6
   0.6
   TCO2
   29
   31
   31
   30
   30
   31
   Glucose
   106
   109
   132
   Other labs: ALT / AST:26/30, Alk Phos / T Bili:97/0.4, Lactic Acid:0.7
   mmol/L, Albumin:2.7 g/dL, LDH:225 IU/L, Ca++:8.0 mg/dL, Mg++:2.6 mg/dL,
   PO4:2.7 mg/dL
   CSF: 1 WBC, 1 RBC, 2% PMN, protein 30, glucose 67, HSV PCR pending
   Cx data: negative apart from GAS in sputum (no sensitivities)
   Assessment and Plan
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
   46-year-old man presents with respiratory failure secondary to
   pneumonia.
   .
   # Respiratory failure:  Currently hypoxemic with respiratory alkalosis
   and high work of breathing unchanged on BiPap.  Appears to be worsening
   since extubation.  His work of breathing is likely due to is underlying
   Pneumonia with Empyema, pain, fever and tachycardia
   - Trial off Bipap, re gas.  If not improved, re-intubate
   - treatment of PNA as below
   .
   #. Pneumonia c/b empyema:  Community acquired, sputum growing group A
   strep at OSH.  After switching to Penicillin overnight he appears to be
   clinically deteriorating, possibly from Empyema.  His chest tube is in
   place but is draining minimally.
   - D/C penicillin, Restart Zosyn empirically
   - f/u cultures and OSH sensi
   - Contact IP re chest tube maintenance
   .
   #. Altered Mental Status: The patient
s altered mental status is
   concerning this far out from sedation.  Other causes include withdrawal
   from narcotics,? benzos or alcohol (no history),  central process/CNS
   infection, delirium from fever/PNA, poorly controlled pain.
   - Limit Opiates/Benzos, restart Opiates for pain control
   - Probe alcohol history
   - Infection management as above
   - Consider LP/Head CT to rule out central process
   .
   # FEN: IVFs / replete lytes prn / NPO for now
   # PPX: H2 blocker, heparin SQ, bowel regimen
   # ACCESS: PIV, place subclavian today
   # CODE:  Full, discussed with wife [**Name (NI) 618**] - [**Telephone/Fax (1) 13432**]
   # CONTACT: wife [**Name (NI) 618**]
   # DISPOSITION: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2123-2-12**] 11:35 PM
   20 Gauge - [**2123-2-13**] 02:25 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2123-02-14 10:08:00 Physician Attending Progress Note
Chief Complaint: Pneumonia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   46M with pneumonia and respiratory failure, now extubated.
   24 Hour Events:
 BLOOD CULTURED - At [**2123-2-13**] 09:20 AM
 FEVER - 102.6
F - [**2123-2-13**] 09:00 AM
   Delerium improved this am, more awake, interactive.
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2123-2-11**] 01:05 PM
   Vancomycin - [**2123-2-11**] 04:38 PM
   Piperacillin - [**2123-2-12**] 03:48 AM
   Penicillin G potassium - [**2123-2-13**] 07:45 AM
   Piperacillin/Tazobactam (Zosyn) - [**2123-2-14**] 07:45 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2123-2-13**] 10:00 AM
   Morphine Sulfate - [**2123-2-13**] 12:15 PM
   Heparin Sodium (Prophylaxis) - [**2123-2-14**] 07:45 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Respiratory: Tachypnea
   Gastrointestinal: Diarrhea
   Genitourinary: Foley
   Integumentary (skin): No(t) Rash
   Neurologic: No(t) Headache
   Psychiatric / Sleep: Delirious
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2123-2-14**] 10:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**24**] AM
   Tmax: 38.5
C (101.3
   Tcurrent: 38.2
C (100.8
   HR: 74 (74 - 95) bpm
   BP: 158/79(95) {132/70(85) - 176/107(128)} mmHg
   RR: 26 (18 - 32) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
             Total In:
                                                                    400 mL
                                                                    350 mL
   PO:
             150 mL
   TF:
   IVF:
                                                                    400 mL
                                                                    200 mL
   Blood products:
   Total out:
                                                                  3,210 mL
                                                                  1,035 mL
   Urine:
                                                                  3,210 mL
                                                                  1,035 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,810 mL
                                                                   -685 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   Ventilator mode: Standby
   FiO2: 40%
   SpO2: 99%
   ABG: ///26/
   Physical Examination
   General Appearance: No acute distress, Diaphoretic
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Crackles : left greater than
   right, Bronchial: left side, Diminished: left side with crackles)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): x2, Movement: Purposeful, Tone: Not assessed
   Labs / Radiology
   11.2 g/dL
   385 K/uL
   132 mg/dL
   0.6 mg/dL
   26 mEq/L
   3.4 mEq/L
   16 mg/dL
   108 mEq/L
   145 mEq/L
   34.6 %
   14.0 K/uL
        [image002.jpg]
                             [**2123-2-11**]  07:09 PM
                             [**2123-2-11**]  11:10 PM
                             [**2123-2-12**]  03:48 AM
                             [**2123-2-12**]  06:31 AM
                             [**2123-2-12**]  08:05 PM
                             [**2123-2-12**]  10:17 PM
                             [**2123-2-13**]  02:52 AM
                             [**2123-2-13**]  06:59 AM
                             [**2123-2-13**]  07:00 AM
                             [**2123-2-14**]  04:30 AM
   WBC
   14.7
   14.8
   14.0
   Hct
   33.4
   32.0
   33.7
   34.6
   Plt
   285
   329
   385
   Cr
   0.7
   0.6
   0.6
   TCO2
   29
   31
   31
   30
   30
   31
   Glucose
   106
   109
   132
   Other labs: ALT / AST:26/30, Alk Phos / T Bili:97/0.4, Lactic Acid:0.7
   mmol/L, Albumin:2.7 g/dL, LDH:225 IU/L, Ca++:8.0 mg/dL, Mg++:2.6 mg/dL,
   PO4:2.7 mg/dL
   Microbiology: [**2-13**] Blood Cx NTD
   Assessment and Plan
 ALTERED MENTAL STATUS (NOT DELIRIUM):
   Improved today.
   No evidence of CNS infection.
   Continue to monitor.
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN):
   Fever curve slightly down now.  Continue Zosyn.
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP):
   Only bacteria isolated was GAS however respiked fever on PCN-G alone.
   Continue Zosyn as he has improved on that.  Complete 7d course.
   Plan for repeat Chest CT today to assess pleural fluid collection and
   need for further drainage.
   Wean O2.
   ICU Care
   Nutrition:
   Comments: Advance diet.
   Glycemic Control:
   Lines:
   22 Gauge - [**2123-2-12**] 11:35 PM
   20 Gauge - [**2123-2-13**] 02:25 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:  Not MV
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 35 minutes
   ------ Protected Section ------
   CRITICAL CARE ATTENDING ADDENDUM
   I saw and examined Mr. [**Initials (NamePattern4) **]
[**Last Name (NamePattern4) **] with the ICU fellow, Dr. [**Last Name (STitle) 347**], whose
   note above reflects my input.  I would add/emphasize that this 46 y/o
   man with minimal PMH presents with pneumonia and complicated
   parapneumonic effusion.  Remains extubated, ABX broadened although only
   (+) cx is GAS, and mental status has improved.  Still febrile.  On
   nasal cannula but has SaO2 92-94% on room air.  CT today (to my eye)
   shows continued pleural fluid with multiple air bubbles throughout (not
   simply antidependent).  In addition, the chest tube is outside the
   pleural space.
   Assessment and Plan
   46-year-old man with complicated community-acquired pneumonia.
   Respiratory Failure
 has resolved
   Community-acquired pneumonia with complicated parapneumonic effusion
          Growing Group A Strep from sputum.  Although this is
   somewhat unusual, invasive disease is certainly reported (e.g.  Arch
   Intern Med. [**2115**] [**2-17**];163(4):467-72 and Clin Infect Dis. [**2117**] [**2-8**];40(4):511-8.)  However, would remain concerned about potential
   polymicrobial infection and so agree with broader therapy while
   awaiting further cultures.
          To my eye, CT looks like a complex pleural space.  Ask I.P.
   to see him for (1) removal of chest tube, and (2) consideration of
   whether VATS would be indicated
   Encephalopathy
   Seems to have improved with time and antibiotics.  LP reassuring.  He
   is in the right window for alcohol withdrawal, but he denies any
   alcohol consumption for several years.  Maintain vigilance for
   worsening.
   On DVT prophylaxis.  Consider d/c of GI proph.
   To floor.
   ------ Protected Section Addendum Entered By:[**Name (NI) 31**] [**Last Name (NamePattern1) **], MD
   on:[**2123-2-14**] 16:09 ------